US07074800B1
A suspension of 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (0.13 g, 0.4 mmol), 5-hydroxy-2-methylindole (74 mg, 0.5 mmol) and potassium carbonate (83 mg, 0.6 mmol) in DMF (1.5 ml) was stirred at 100° C. for 2 hours. After cooling to ambient temperature, water (20 ml) was added. The precipitate was collected by filtration, washed with water and dried under vacuum at 60° C. to give 6-methoxy-4-(2-methylindol-5-yloxy)-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline (80 mg, 46%).

reactant | 4-chloro-6-methoxy-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 0.4 mmol, 0.13 g | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 5-hydroxy-2-methylindole | 0.5 mmol, 74 mg | OC=1C=C2C=C(NC2=CC1)C | C9H9NO
reactant | potassium carbonate | 0.6 mmol, 83 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 20 ml | O | H2O
solvent | DMF | 1.5 ml | CN(C)C=O | C3H7NO
product | 6-methoxy-4-(2-methylindol-5-yloxy)-7-(3-(pyrrolidin-1-yl)propoxy)quinazoline | 80 mg, 46% | COC=1C=C2C(=NC=NC2=CC1OCCCN1CCCC1)OC=1C=C2C=C(NC2=CC1)C | C25H28N4O3
